US07816387B2
3-(2-Furyl)-5-[methyl(methylsulfonyl)amino]benzoic acid
A mixture of methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate obtained in Reference Example 15 166 mg (0.5.0 mmol), tri-n-butyl(2-furyl)stannane 0.18 mL (0.55 mmol), lithium chloride 42 mg (0.10 mmol), tetrakistriphenylphosphine palladium(0) 29 mg (0.025 mmol) and N,N-dimethylformamide (1.5 mL) was stirred at 100° C. under argon atmosphere for 7 hours. The mixture was diluted with a mixed solvent of ethyl acetate/toluene=1:1 and washed twice with water. After drying of the mixture on magnesium sulfate, the mixture was concentrated and the residual oil was purified by a column chromatography on silica gel (eluted with hexane/ethyl acetate=2:1→1:1). The resulting solid was dissolved in a mixture of 2N aqueous sodium hydroxide solution (2 mL), methanol (2 mL) and tetrahydrofuran (2 mL) and the mixture was stirred at room temperature for 15 hours. The solvent was concentrated and thereto added water and the mixture was washed with a mixed solvent of hexane/ethyl acetate=1:1. The aqueous layer was adjusted by adding 1N hydrochloric acid to pH=3 and the mixture was extracted with ethyl acetate. After drying of the mixture on magnesium sulfate, the solvent was evaporated to give 105 mg (0.355 mmol) of the title compound (yield: 71%).

reactant | methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate | BrC=1C=C(C(=O)OC)C=C(C1)N(S(=O)(=O)C)C | C10H12BrNO4S
reactant | tri-n-butyl(2-furyl)stannane | 0.55 mmol, 0.18 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | lithium chloride | 0.10 mmol, 42 mg | [Cl-].[Li+]
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
product | 3-(2-Furyl)-5-[methyl(methylsulfonyl)amino]benzoic acid | 0.355 mmol, 105 mg, yield: 71% | O1C(=CC=C1)C=1C=C(C(=O)O)C=C(C1)N(S(=O)(=O)C)C | C13H13NO5S
